US08309580B2
(2) 3-[{[4-(cyclohexyl{4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}methoxy)phenyl]carbonyl}(methyl)amino]propanoic acid
To a solution (10 mL) of 4-(cyclohexyl{4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}methoxy)benzoic acid (0.43 g) synthesized above in dimethylacetamide were added ethyl 3-(methylamino)propanoate (0.14 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.29 g) and 1-hydroxybenzotriazole monohydrate (0.23 g) at room temperature, and the mixture was stirred at 60° C. for 1 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was purified by silica gel chromatography (ethyl acetate:hexane=1:1, volume ratio) to give a methyl ester form of the title compound (0.44 g). This was dissolved in ethanol (2 mL), 1N sodium hydroxide (1.5 mL) was added and the mixture was stirred at room temperature for 1 hr. Ethanol was evaporated under reduced pressure, and 1N hydrochloric acid (1.5 mL) was added to the residue to give the title compound (0.40 g, 78%) as an amorphous form.

reactant | 4-(cyclohexyl{4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}methoxy)benzoic acid | 10 mL, 0.43 g | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=CN(C=C1C)C1=CC(=CC=C1)C(F)(F)F | C26H26F3NO3
reactant | ethyl 3-(methylamino)propanoate | 0.14 g | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.29 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.23 g | O.ON1N=NC2=C1C=CC=C2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | Water | O | H2O
product | 3-[{[4-(cyclohexyl{4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}methoxy)phenyl]carbonyl}(methyl)amino]propanoic acid | 0.44 g | C1(CCCCC1)C(OC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C)C1=CN(C=C1C)C1=CC(=CC=C1)C(F)(F)F | C30H33F3N2O4
